$library inclusion and correct instance parameters
* Netlist tests XDM library parsing functions. Makes 
* sure that model is read in from dummylib.lib section
* TWO, and that there are no name scope conflicts with 
* definition in succeeding library section

.lib ./dummylib.lib two

VD 1 0 0.05
D1 1 0 DXX

.DC VD 0 1.2 0.05
.PRINT DC I(VD)
